US09290485B2
N-((6-Amino-4-chloro-2-methylpyridin-3-yl)methyl)-1-((2-methylquinolin-6-yl)methyl)-1H-1,2,3-triazole-4-carboxamide
The title compound was prepared from 1-((2-Methylquinolin-6-yl)methyl)-1H-1,2,3-triazole-4-carboxylic acid and 5-(aminomethyl)-4-chloro-6-methylpyridin-2-amine in analogy to Example 20c). HPLC-MS (Method F) Rt=0.44 min. [M+H]+=422.1.

reactant | 1-((2-Methylquinolin-6-yl)methyl)-1H-1,2,3-triazole-4-carboxylic acid | CC1=NC2=CC=C(C=C2C=C1)CN1N=NC(=C1)C(=O)O | C14H12N4O2
reactant | 5-(aminomethyl)-4-chloro-6-methylpyridin-2-amine | NCC=1C(=CC(=NC1C)N)Cl | C7H10ClN3
product | N-((6-Amino-4-chloro-2-methylpyridin-3-yl)methyl)-1-((2-methylquinolin-6-yl)methyl)-1H-1,2,3-triazole-4-carboxamide | NC1=CC(=C(C(=N1)C)CNC(=O)C=1N=NN(C1)CC=1C=C2C=CC(=NC2=CC1)C)Cl | C21H20ClN7O
